US08877780B2
To a stirred mixture of 3-(5-aminomethyl-1-oxo-1,3-dihydro-isoindol-2-yl)-piperidine-2,6-dione hydrochloride (0.4 g, 1.20 mmol) and 3,4-dichlorobenzoyl chloride (0.26 g, 1.20 mmol) in N,N-dimethylformamide (15 mL), was added triethylamine (0.34 mL, 2.40 mmol) at room temperature under nitrogen. After 2 h, the mixture was diluted with water (40 mL) and stirred for 1 h. The product was isolated by filtration, washed with water (50 mL) and dried in vacuo providing 3,4-dichloro-N-[2-(3-methyl-2,6-dioxo-piperidin-3-yl)-1-oxo-2,3-dihydro-1H-isoindol-5-ylmethyl]-benzamide as an off-white solid (0.44 g, 79% yield): HPLC: Waters Symmetry C18, 5 μm, 3.9×150 mm, 1 mL/min, 240 nm, 45/55 CH3CN/0.1% H3PO4, 3.46 min (96.23%); mp: 220-222° C.; 1H NMR (DMSO-d6) δ 1.66 (s, 3H), 1.80-1.98 (m, 1H), 2.52-2.82 (m, 3H), 4.51-4.72 (m, 4H), 7.45 (d, J=7.7 Hz, 1H), 7.54 (s, 1H), 7.61 (d, J=7.7 Hz, 1H), 7.78 (d, J=8.3 Hz, 1H), 7.88 (d, J=7.7 Hz, 1H), 8.14 (s, 1H), 9.34 (t, J=5.2 Hz, 1H), 10.86 (br. s., 1H); 13C NMR (DMSO-d6) δ 20.74, 27.81, 29.01, 42.89, 47.65, 57.12, 121.92, 122.59, 127.13, 127.61, 129.24, 130.76, 131.08, 131.31, 134.15, 134.49, 142.41, 143.28, 164.04, 166.97, 172.43, 173.53; LCMS: MH=460/462; Anal Calcd for C22H19Cl2N3O4+1.15H2O: C, 54.93; H, 4.46; N, 8.74. Found: C, 54.60; H, 4.07; N, 8.70.

reactant | 3-(5-aminomethyl-1-oxo-1,3-dihydro-isoindol-2-yl)-piperidine-2,6-dione hydrochloride | 1.20 mmol, 0.4 g | Cl.NCC=1C=C2CN(C(C2=CC1)=O)C1C(NC(CC1)=O)=O
reactant | 3,4-dichlorobenzoyl chloride | 1.20 mmol, 0.26 g | ClC=1C=C(C(=O)Cl)C=CC1Cl | C7H3Cl3O
reactant | triethylamine | 2.40 mmol, 0.34 mL | C(C)N(CC)CC | C6H15N
solvent | N,N-dimethylformamide | 15 mL | CN(C=O)C | C3H7NO
solvent | water | 40 mL | O | H2O
product | 3,4-dichloro-N-[2-(3-methyl-2,6-dioxo-piperidin-3-yl)-1-oxo-2,3-dihydro-1H-isoindol-5-ylmethyl]-benzamide | 0.44 g, 79% yield | ClC=1C=C(C(=O)NCC=2C=C3CN(C(C3=CC2)=O)C2(C(NC(CC2)=O)=O)C)C=CC1Cl | C22H19Cl2N3O4
